US07109219B2
N4-(4-(1-(Methylamino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)-4-morpholinecarboxamide
Phenyl N-(4-(1-(methylamino)carbonyl-1H-5-indolyloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate (20 g, 38 mmol) synthesized in Production example 5-2 was dissolved in N,N-dimethylformamide (190 ml); morpholine (13.3 mg, 153 mmol) was added thereto; and the reaction system was stirred at room temperature for 9 hours. The reaction mixture was partitioned between ethyl acetate and water; and the organic layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was dissolved in ethyl acetate and a small amount of tetrahydrofuran; this suspension was filtrated with silica gel; and ethyl acetate and three different ratio of solvent mixtures of ethyl acetate:methanol=20:1, 10:1, and 5:1 were eluted through the gel. The filtrate was concentrated under reduced pressure. The residue was dissolved in diethyl ether (40 ml); hexane (200 ml) was added thereto; and precipitated insoluble syrupy portion was removed from the solution; and the resultant solution was concentrated again under reduced pressure. The residue was dissolved in ethyl acetate (300 ml) and was allowed to stand at room temperature. After the crystals were precipitated, the crystals were filtered off, washed with ethyl acetate, and dried to yield the crude crystals of the title compound (10.3 g). 9 g of this crude crystals was suspended in a mixture of tetrahydrofuran (3 ml) and N,N-dimethylformamide (3 ml each); this suspension was diluted with ethanol (60 ml); and the crystals were filtered off, washed with ethanol and dried to yield the title compound as colorless crystals (7.70 g, 19 mmol).

reactant | Phenyl N-(4-(1-(methylamino)carbonyl-1H-5-indolyloxy)-2-pyridyl)-N-(phenoxycarbonyl)carbamate | 38 mmol, 20 g | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N(C(OC1=CC=CC=C1)=O)C(=O)OC1=CC=CC=C1 | C29H22N4O6
reactant | morpholine | 153 mmol, 13.3 mg | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 190 ml | CN(C=O)C | C3H7NO
product | N4-(4-(1-(Methylamino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)-4-morpholinecarboxamide | 10.3 g | CNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCOCC1 | C20H21N5O4
